US05359066
To a solution of ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro -4-oxoquinoline-3-carboxylate hydrochloride(5.91 g)in dichloromethane (100 ml) was added a saturated aqueous sodium hydrogencarbonate solution (50 ml) and the mixture was stirred at ambient temperature for 30 minutes. The organic layer was washed with brine (50 ml), dried over magnesium sulfate, and concentrated under reduced pressure to give a solid. The solid was recrystallized from dichloromethane-n-hexane to give ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate (5.14 g).

reactant | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro -4-oxoquinoline-3-carboxylate hydrochloride | 5.91 g | Cl.FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate | 5.14 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O | C13H11F3N2O3
